US04189595
In a mixture of 50 ml of ethanol and 30 ml of benzene, 7.0 g (0.017 mole) of ethyl N-benzyl-o-(2,6-dichloroanilino)phenylacetate was dissolved and 31 ml of 2 N-NaOH aq. sol. was added and the mixture was stirred at about 80° C. for 9 hours. The reaction mixture was concentrated under reduced pressure and 70 ml of ether was added to the residue and the reaction product was extracted with 2 N-NaOH aq. sol. The pH of the water phase was adjusted with a dilute hydrochloric acid to 2.0 and the precipitate was extracted with ether and the ether phase was dried over anhydrous sodium sulfate and concentrated under a reduced pressure. The reaction product was recrystallized and 5.1 g of N-benzyl-o-(2,6-dichloroanilino)phenyl acetic acid was obtained as colorless crystals. Yield: 78%

reactant | ethyl N-benzyl-o-(2,6-dichloroanilino)phenylacetate | 0.017 mole, 7.0 g | C(C1=CC=CC=C1)N(C1=C(C=CC=C1Cl)Cl)C1=C(C=CC=C1)CC(=O)OCC | C23H21Cl2NO2
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-benzyl-o-(2,6-dichloroanilino)phenyl acetic acid | 5.1 g, Yield: 78% | C(C1=CC=CC=C1)N(C1=C(C=CC=C1Cl)Cl)C1=C(C=CC=C1)CC(=O)O | C21H17Cl2NO2
